US05166198
9-(2-Hydroxy-3-phosphonopropoxy)guanine
A solution of 2-amino-6-methoxy-9-[2-hydroxy-3-(diethoxyphosphoryl)propoxy]purine (70 mg, 0.182 mmol) and bromotrimethylsilane (0.4 ml, 3 mmol) in dimethylformamide (3 ml) was stirred at 23° C. for 3 hours. The solvent was evaporated and the residue was coevaporated with dimethylformamide (2×5 ml) and methanol:water (9.1) solution (1×5 ml). Crystallization from water:methanol (9:1) gave the title compound (34 mg, 62%); m.p. 258° C.-260° C. 1H NMR: δH [(CD3)2SO] 1.80 (2H, m, PCH2), 4.2 (3H, m, PCH2CHCH2), 6.62 (2H, br.s, D2O exchangeable NH2), 7.90 (1H, s, H-8), 10.64 (1H, br.s, D2O exchangeable NH). Found: C, 31.34; H, 4.05; N, 22.61%. C 8 H12N5O6P requires: C, 31.48; H, 3.96; N, 22.95%.

reactant | 2-amino-6-methoxy-9-[2-hydroxy-3-(diethoxyphosphoryl)propoxy]purine | 0.182 mmol, 70 mg | NC1=NC(=C2N=CN(C2=N1)OCC(CP(=O)(OCC)OCC)O)OC | C13H22N5O6P
reactant | bromotrimethylsilane | 3 mmol, 0.4 ml | Br[Si](C)(C)C | C3H9BrSi
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 9-(2-Hydroxy-3-phosphonopropoxy)guanine | 34 mg, 62% | OC(CON1C=2N=C(NC(C2N=C1)=O)N)CP(=O)(O)O | C8H12N5O6P
